US04743614
To a mixture of 2S,3R)-2-amino-3-[[(1S)-1-carboxy-2-(4-imidazolyl)ethyl]amino]butyric acid (400 mg) and triethylamine (0.70 ml) in a mixture of water (10 ml) and dioxane (10 ml) was added (2S)-6-benzyloxycarbonylamino-2-t-butoxycarbonylaminohexanoic acid (894 mg) at 5° C. and the mixture was stirred in an ice-bath for 3 hours. The volatile solvent was evaporated in vacuo and the residue was adjusted to pH 4 with 1N hydrochloric acid. The mixture was subjected to a column of "Diaion HP-20" (80 ml). After the column was washed with water, the elution was carried out with a mixture of methanol and water (3:7-8:2) and the object fractions were collected and evaporated in vacuo. The residue was solidified with a mixture of methanol and ether to give (2S,3R)-2-[[(2S)-6-benzyloxycarbonylamino-2-t-butoxycarbonylaminohexanoyl]amino]-3-[[(1S)-1-carboxy-2-(4-imidazolyl)ethyl]amino]butyric acid (786 mg) as a white powder.

reactant | 2-amino-3-[[(1S)-1-carboxy-2-(4-imidazolyl)ethyl]amino]butyric acid | 400 mg | NC(C(=O)O)C(C)N[C@@H](CC=1N=CNC1)C(=O)O | C10H16N4O4
reactant | triethylamine | 0.70 ml | C(C)N(CC)CC | C6H15N
reactant | (2S)-6-benzyloxycarbonylamino-2-t-butoxycarbonylaminohexanoic acid | 894 mg | C(C1=CC=CC=C1)OC(=O)NCCCC[C@@H](C(=O)O)NC(=O)OC(C)(C)C | C19H28N2O6
solvent | water | 10 ml | O | H2O
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | (2S,3R)-2-[[(2S)-6-benzyloxycarbonylamino-2-t-butoxycarbonylaminohexanoyl]amino]-3-[[(1S)-1-carboxy-2-(4-imidazolyl)ethyl]amino]butyric acid | 786 mg | C(C1=CC=CC=C1)OC(=O)NCCCC[C@@H](C(=O)N[C@H](C(=O)O)[C@@H](C)N[C@@H](CC=1N=CNC1)C(=O)O)NC(=O)OC(C)(C)C | C29H42N6O9
